US04285723
The 2-amino-4-trifluoromethylphenols (XI) required for the reaction sequence just described may be prepared by conventional methods. Thus, 2-amino-6-fluoro-4-trifluoromethylphenol may be prepared from 2-nitro-4-trifluoromethylchlorobenzene by reacting the latter with sodium methoxide to give 2-nitro-4-trifluoromethylanisole, and reducing this compound to 2-amino-4-trifluoromethylanisole. The latter compound may be diazotised and converted to its fluoborate salt and heated to give 2-fluoro-4-trifluoromethylanisole. This may then be nitrated to form 2-fluoro-6-nitro-4-trifluoromethylanisole, which is then reduced to give 2-amino-6-fluoro-4-trifluoromethylanisole. Finally the latter compound is heated with a demethylating agent, for example an excess of pyridine hydrochloride to give 2-amino-6-fluoro-4-trifluoromethylphenol.

reactant | 2-amino-6-fluoro-4-trifluoromethylphenol | NC1=C(C(=CC(=C1)C(F)(F)F)F)O | C7H5F4NO
reactant | 2-nitro-4-trifluoromethylchlorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)Cl | C7H3ClF3NO2
reactant | sodium methoxide | C[O-].[Na+]
product | 2-nitro-4-trifluoromethylanisole | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)OC | C8H6F3NO3
